US04364956
A stirred solution of 4-butylbenzaldehyde (13.5 g), nitroethane (9.0 ml) and butylamine (1.6 ml) in ethanol (20 ml) was heated under reflux for 6 hours and evaporated. The residue was distilled under vacuum to give 1-(4-butylphenyl)-2-nitropropene (bp 124°-125° C./0.15 mm).

reactant | 4-butylbenzaldehyde | 13.5 g | C(CCC)C1=CC=C(C=O)C=C1 | C11H14O
reactant | nitroethane | 9.0 ml | [N+](=O)([O-])CC | C2H5NO2
reactant | butylamine | 1.6 ml | C(CCC)N | C4H11N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-(4-butylphenyl)-2-nitropropene | C(CCC)C1=CC=C(C=C1)C=C(C)[N+](=O)[O-] | C13H17NO2
